US08895745B2
1-(2,2,2-Trifluoro-ethyl)-3-{3-[7-(1,2,5-trimethyl-1H-imidazol-4-yl)-imidazo[1,2,a]pyridine-3-yl]-phenyl}-urea
4-Bromo-1,2,5-trimethyl-1H-imidazole may be prepared from 2,4-dibromo-1,5-dimethyl-1H-imidazole by treatment with n-butyl lithium and methyl iodide as described in J. Org. Chem., 1994, 59, 5524. This may be coupled with 1-[3-(7-boronic acid-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea or 1-{3-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea according to procedure E3.

reactant | 4-Bromo-1,2,5-trimethyl-1H-imidazole | BrC=1N=C(N(C1C)C)C | C6H9BrN2
reactant | 2,4-dibromo-1,5-dimethyl-1H-imidazole | BrC=1N(C(=C(N1)Br)C)C | C5H6Br2N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl iodide | CI | CH3I
reactant | 1-{3-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | CC1(OB(OC1(C)C)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C | C22H24BF3N4O3
product | 1-(2,2,2-Trifluoro-ethyl)-3-{3-[7-(1,2,5-trimethyl-1H-imidazol-4-yl)-imidazo[1,2,a]pyridine-3-yl]-phenyl}-urea | FC(CNC(=O)NC1=CC(=CC=C1)C1=CN=C2N1C=CC(=C2)C=2N=C(N(C2C)C)C)(F)F | C22H21F3N6O
